US06448266B1
Ethyl (E)-3-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]acrylate
A 11.41 g (29.07 mmol) portion of crude ethyl 3-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]-3-hydroxypropionate was dissolved in 100 ml of dichloromethane to which, while cooling in an ice bath and stirring, were subsequently added 2.70 ml (34.9 mmol) of methanesulfonyl chloride and 10.13 ml (72.68 mmol) of triethylamine in that order. After 2 hours of stirring, to this was added 9.56 ml (72.7 mmol) of diazabicycloundecene. After 1 hour of stirring, the reaction mixture was further stirred at room temperature for 2 hours. While cooling in an ice bath and stirring, this was mixed with saturated ammonium chloride aqueous solution and then with ethyl acetate to effect separation of layers. The resulting organic layer was washed with 10% citric acid aqueous solution and then with saturated brine. The organic layer was dried over anhydrous sodium sulfate and filtered, the solvent was evaporated under a reduced pressure and then the resulting residue was purified by a silica gel column chromatography (n-hexane:ethyl acetate=2:1) to give 9.46 g (25.26 mmol) of the title compound.

reactant | ethyl 3-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]-3-hydroxypropionate | C(C1=CC=CC=C1)OC1CC(C1)(C(=O)OCCC(C)C)C(CC(=O)OCC)O | C22H32O6
reactant | methanesulfonyl chloride | 34.9 mmol, 2.70 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 72.68 mmol, 10.13 ml | C(C)N(CC)CC | C6H15N
reactant | diazabicycloundecene | 72.7 mmol, 9.56 ml | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl (E)-3-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]acrylate | 25.26 mmol, 9.46 g | C(C1=CC=CC=C1)OC1CC(C1)(C(=O)OCCC(C)C)/C=C/C(=O)OCC | C22H30O5
